US04959366
(B) 4-{2-[N-(4-Aminophenethyl)-N-methylamino]ethoxy}benzamide
A solution of 4-{2-[N-methyl-N-(4-nitrophenethyl)amino]ethoxy}benzamide (1.4 g) in ethanol (100 ml) was stirred for 16 hours at room temperature under three atmospheres of hydrogen in the presence of Raney nickel ("Nicat 102", Trade Mark). The reaction mixture was filtered and evaporated to dryness to give a yellow solid (1.2 g) which crystallised from ethyl acetate to give the title compound, (1.1 g), m.p. 110°-112°.

reactant | 4-{2-[N-methyl-N-(4-nitrophenethyl)amino]ethoxy}benzamide | 1.4 g | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCOC1=CC=C(C(=O)N)C=C1 | C18H21N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-{2-[N-(4-Aminophenethyl)-N-methylamino]ethoxy}benzamide | 1.2 g | NC1=CC=C(CCN(C)CCOC2=CC=C(C(=O)N)C=C2)C=C1 | C18H23N3O2
